US07528129B2
20b) (R)-1-carboxy-2-(4-benzyloxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate
A solution of 250 mg (10.42 mmol) LiOH in 10 mL water was added to a solution of 2.50 g (4.11 mmol) (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate in 20 mL THF and the reaction mixture was stirred for 2 h at RT. The organic solvent was removed i.vac., the aqueous residue was acidified with 2 M HCL and combined with EtOAc/DCM (2:1). The precipitate formed was filtered off and dried.

reactant | LiOH | 10.42 mmol, 250 mg | [Li+].[OH-]
reactant | (R)-2-(4-benzyloxy-3,5-dimethyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | 4.11 mmol, 2.50 g | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C(=O)OC | C35H36N4O6
solvent | water | 10 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(4-benzyloxy-3,5-dimethyl-phenyl)-ethyl 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C(=O)O | C34H34N4O6
